US08629168B2
4-[2-(3,4,5-Trimethoxy-phenylamino)-benzooxazol-7-yl]-thiophene-2-carboxylic acid methylamide
A mixture of 0.04 g (0.083 mmol) 4-[2-(3,4,5-trimethoxy-phenylamino)-benzooxazol-7-yl]-thiophene-2-carboxylic acid, 0.025 g (0.127 mmol) EDC-HCl, 0.016 g (0.128 mmol) DMAP, 0.83 ml (1.7 mmol) methylamine THF solution (2M), 0.012 g (0.088 mmol) HOBt and 4 ml dichloromethane is stirred at room temperature for 72 h. Then EtOAc is added to the reaction mixture and the organic layer is washed with water (2×), dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, hexane:EtOAc=1:2), followed by crystallization from dichloromethane/diethyl ether to afford the title compound as off-white crystals. Rt=2.15 min (Waters Symmetry C8, 2.1×50 mm, detection 210-250 nM, 5% to 100% CH3CN in H2O in 2 min+0.05% TFA, flow rate 1.0 ml/min); MS: 440 (M+1)+; m.p. 260-262° C.

reactant | 4-[2-(3,4,5-trimethoxy-phenylamino)-benzooxazol-7-yl]-thiophene-2-carboxylic acid | 0.083 mmol, 0.04 g | COC=1C=C(C=C(C1OC)OC)NC=1OC2=C(N1)C=CC=C2C=2C=C(SC2)C(=O)O | C21H18N2O6S
reactant | EDC-HCl | 0.127 mmol, 0.025 g | CCN=C=NCCCN(C)C.Cl
reactant | methylamine THF | 1.7 mmol, 2M, 0.83 ml | CN.C1CCOC1
reactant | HOBt | 0.088 mmol, 0.012 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | 0.128 mmol, 0.016 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4-[2-(3,4,5-Trimethoxy-phenylamino)-benzooxazol-7-yl]-thiophene-2-carboxylic acid methylamide | CNC(=O)C=1SC=C(C1)C1=CC=CC=2N=C(OC21)NC2=CC(=C(C(=C2)OC)OC)OC | C22H21N3O5S
